US05726310
The reaction of cyanuric chloride with 1,3-xylene under Friedel-Crafts conditions to give 2-chloro-4,6-bis(2,4-dimethylphenyl)-s-triazine is known, e.g. from DE-A-1 169 947 and Helv. Chim. Acta 55, 1589 (1972). However, the product can also be obtained using an appropriate Grignard reagent, such as described in Helv. Chim. Acta 33, 1365 (1950) and U.S. Pat. No. 4,092,466.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 1,3-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | 2-chloro-4,6-bis(2,4-dimethylphenyl)-s-triazine | ClC1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C19H18ClN3
